US06465467B1
Step 2: 4-Benzyl-1-(3-chloro-2-pyrazinyl)-cis-2,6-dimethylpiperazine.
A mixture of 2,3-dichloropyrazine (4.9 g, 32.9 mmol), 1-benzyl-cis-3,5-dimethylpiperazine (5.9 g, 29.0 mmol), tributylamine (5.9 g, 32 mmol) and diphenyl ether (70 mL) was heated in a sealed tube at 220° C. for 3 days. The reaction mixture was cooled to ambient temperature and EtOAc (200 mL) and toluene (100 mL) were added. The organic phase was extracted with 5 M aqueous HCl (×3) and the combined aqueous phases were extracted with CHCl3 (×3). The combined organic layers, which contained the product, were washed with aqueous NaOH (5 M), dried (MgSO4), and the solvent was evaporated. The crude product (0.96 g), about 80% pure based on GC, was used in the next step without further purification.

reactant | 2,3-dichloropyrazine | 32.9 mmol, 4.9 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | 1-benzyl-cis-3,5-dimethylpiperazine | 29.0 mmol, 5.9 g | C(C1=CC=CC=C1)N1C[C@H](N[C@H](C1)C)C | C13H20N2
reactant | tributylamine | 32 mmol, 5.9 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | diphenyl ether | 70 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 4-Benzyl-1-(3-chloro-2-pyrazinyl)-cis-2,6-dimethylpiperazine | C(C1=CC=CC=C1)N1C[C@@H](N([C@@H](C1)C)C1=NC=CN=C1Cl)C | C17H21ClN4
